US06284755B1
Step D: Preparation of 2-(-3-methoxy-phenyl)-4-methyl-2-propyl-morpholine-3-one
2-Allyl-2-(-3-methoxy-phenyl)-4-methyl-morpholine-3-one, as described above in Step C, (0.400 g, 1.53 mmol) was dissolved in MeOH (20 mL), the solution purged with Ar, treated with 10% Pd/C (0.060 g), and hydrogenated under a H2 balloon. After 2 h the reaction mixture was filtered through a celite pad and concentrated to dryness to give the title compound.

reactant | 2-Allyl-2-(-3-methoxy-phenyl)-4-methyl-morpholine-3-one | C(C=C)C1(C(N(CCO1)C)=O)C1=CC(=CC=C1)OC | C15H19NO3
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(-3-methoxy-phenyl)-4-methyl-2-propyl-morpholine-3-one | COC=1C=C(C=CC1)C1(C(N(CCO1)C)=O)CCC | C15H21NO3
